US07105671B2
A solution of 3-iodomethyl-cyclopentanol (7.71 g, 34.10 mmol) in methylene chloride (171 mL) was treated with 3,4-dihydro-2H-pyran (4.7 ml, 51.16 mmol) and pyridinium p-toluenesulfonate (857.1 mg, 3.41 mmol). The resulting reaction mixture was stirred at 25° C. for 24 h. The reaction mixture was then washed with a saturated aqueous sodium chloride solution (1×200 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70–230 mesh, 19/1 petroleum ether/diethyl ether) afforded 2-(3-iodomethyl-cyclopentyloxy)-tetrahydropyran (7.91 g, 75%) as a yellow oil: EI-HRMS m/e calcd for C11H19IO2 (M+) 310.0430, found 310.0433.

reactant | 3-iodomethyl-cyclopentanol | 34.10 mmol, 7.71 g | ICC1CC(CC1)O | C6H11IO
reactant | 3,4-dihydro-2H-pyran | 51.16 mmol, 4.7 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 3.41 mmol, 857.1 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methylene chloride | 171 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-iodomethyl-cyclopentyloxy)-tetrahydropyran | 7.91 g, 75% | ICC1CC(CC1)OC1OCCCC1 | C11H19IO2
